US07615555B2
Sodium borohydride (189 mg) was added to a solution of 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-one (2.07 g) in ethanol (40 ml) at 0° C., the mixture was allowed to warm to room temperature and was stirred for 16 hours. The reaction mixture was evaporated to dryness, the residue was redissolved in dichloromethane and washed with water (15 ml) and brine (15 ml) and dried. Removal of the solvent gave 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-ol, 2.1 g, M+H 414.

reactant | Sodium borohydride | 189 mg | [BH4-].[Na+]
reactant | 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-one | 2.07 g | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCN(CC2)CCC(=O)C2=CC=CC=C2)C=C1 | C22H25N3O3S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-ol | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCN(CC2)CCC(O)C2=CC=CC=C2)C=C1 | C22H27N3O3S
